US07902369B2
1) Manufacture of 7-hydroxy-2-methoxy-4H-chromen-4-on
Under nitrogen atmosphere, 170 mg of aluminium trichloride was added to 5 ml solution of toluene with 103 mg of 2,7-dimethoxy-4H-chromen-4-one, and the mixture was stirred at 90° C. for 4 hours. Water was added to the reaction solution, the deposited white solid was filtered, separated and purified by preparative thin-layer chromatography (chloroform/methanol=9/1), to obtain 62 mg of the above compound as a white solid.

reactant | aluminium trichloride | 170 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2,7-dimethoxy-4H-chromen-4-one | 103 mg | COC=1OC2=CC(=CC=C2C(C1)=O)OC | C11H10O4
solvent | Water | O | H2O
product | 7-hydroxy-2-methoxy-4H-chromen-4-on | 62 mg | OC1=CC=C2C(C=C(OC2=C1)OC)=O | C10H8O4
